US06506747B1
Synthesis of 6-[(3-Cyanopropoxy)napthalen-1-yl]-[4-(5-ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]amine
A mixture of 2-(3-cyanopropoxy)-5-iodonaphthalene (77.0 mg, 0.228 mmol), with 5-ethyl-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole (72.4 mg, 1.2 equiv.), NaO-t-Bu (40.8 mg, 1.86 equiv.), Pd2(dba)3 (5.2 mg, 2.5% equiv.) and (−)B1NAP (10.6 mg, 7.5% equiv.) in toluene (1 mL) was heated at 80° C. for 18 h. The mixture was diluted with ethyl acetate, filtered through diatomaceous earth and concentrated. Chromatography on silica gel gave the title compound (98.0 mg, 90.8%). 1H-NMR (CDCl3): 1.30 (t, J=7.4 Hz, 3H), 2.20-2.25 (m, 2H), 2.62-2.74 (m, 4H), 4.22 (t, J=5.4 Hz, 2H), 6.31 (bs, 1H), 6.59 (s, 1H), 6.99 (d, J=8.6 Hz, 2H), 7.17 (d, J=9.1 Hz, 1H), 7.20 (s, 1H), 7.29-7.34 (m, 4H), 7.43 (t, J=8.0 Hz, 1H), 7.56 (d, J=8.2 Hz, 1H), 7.98 (d, J=9.2 Hz, 1H), 8.21 (d, J=7.9 Hz, 1H), 8.56 (d, J=4.2 Hz, 1H), 9.11 (s, 1H).

reactant | 2-(3-cyanopropoxy)-5-iodonaphthalene | 0.228 mmol, 77.0 mg | C(#N)CCCOC1=CC2=CC=CC(=C2C=C1)I | C14H12INO
reactant | 5-ethyl-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole | 72.4 mg, 1.2 equiv. | C(C)C1=CC(=NN1C1=CC=C(C=C1)N)C=1C=NC=CC1 | C16H16N4
reactant | NaO-t-Bu | 40.8 mg, 1.86 equiv. | O([Na])C(C)(C)C
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 5.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[(3-Cyanopropoxy)napthalen-1-yl]-[4-(5-ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]amine | 98.0 mg, 90.8% | C(#N)CCCOC1=C(C2=CC=CC=C2C=C1)C1=CC(=CC=C1N)N1N=C(C=C1CC)C=1C=NC=CC1 | C30H27N5O
